### PR TITLE
feat(QuantumMechanics): Defect number and numerical range (Toeplitz-Hausdorff theorem)

### PR DESCRIPTION
**Pull request by gloges**
Defines the deficiency subspaces, defect numbers and numerical range for any partial linear map `T : H →ₗ.[ℂ] H`, building on #1141.

The main results are:
- The defect number is constant on each connected component of the regularity domain.
- The regularity domain contains the exterior of the numerical range.
- The Toeplitz-Hausdorff theorem: the numerical range is a convex set.

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

File: Physlib/QuantumMechanics/DDimensions/Operators/SpectralTheory/Basic.lean [hunk 1]
```diff
@@ -178,11 +192,317 @@ lemma closure_range_sub_eq_range_closure_sub [CompleteSpace H]
...
   have hT' : T.closure = T := hT.isClosable.isClosed_iff.mp hT
-  exact (hT' ▸ closure_range_sub_eq_range_closure_sub hT.isClosable hz) ▸ isClosed_closure
+  exact (hT' ▸ hT.isClosable.closure_range_sub_eq_range_closure_sub hz) ▸ isClosed_closure
+
+/-!
+## B. Deficiency subspace & defect number
+-/
+
+/-- The closed submodule `(T - z • 1).rangeᗮ`. -/
+def deficiencySubspace (T : H →ₗ.[ℂ] H) (z : ℂ) : ClosedSubmodule ℂ H :=
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/SpectralTheory/Basic.lean:209]: For this could we expand on the doc-string a bit, even just with the description included in the module doc-string.

Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/Operators/SpectralTheory/Basic.lean:209]: Thanks, I've added to this doc string.

**Review by jstoobysmith — APPROVED** [review]
Approved - will merge shortly
